US08183380B2
tert-butyl[({2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}amino)sulfonyl]carbamate
(R)—N2-Indan-1-yl-quinoline-2,6-diamine (0.09 g, 0.33 mmol) and dimethylamino pyridinium N-tert butoxycarbonyl sulfamide (0.12 g, 0.36 mmol) were dissolved in acetonitrile (2.0 mL). After addition of triethylamine (0.05 mL, 0.36 mmol) the reaction mixture was heated to reflux for 16 h. The solvent was removed and the residue subjected to column chromatography (silica gel, heptane/ethyl acetate=9:1/4:1/1:1). The title compound was obtained as a yellow solid (15 mg; 10%); MS: m/e=455.7 (M+H+).

reactant | (R)—N2-Indan-1-yl-quinoline-2,6-diamine | 0.33 mmol, 0.09 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | dimethylamino pyridinium N-tert butoxycarbonyl sulfamide | 0.36 mmol, 0.12 g | S(=O)(=O)(NC(=O)OC(C)(C)C)N.CN(C)[N+]1=CC=CC=C1
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | tert-butyl[({2-[(1R)-2,3-dihydro-1H-inden-1-ylamino]quinolin-6-yl}amino)sulfonyl]carbamate | C(C)(C)(C)OC(NS(=O)(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12)=O | C23H26N4O4S
